### PR TITLE
[Merged by Bors] - feat(Algebra/Polynomial/Sturm): sturm sequences

### PR DESCRIPTION
**Pull request by tomaz1502**
This PR defines `Polynomial.sturmSeq p q`, the Sturm sequence (signed remainder sequence) of two
polynomials over a field: the list `[p, q, -(p % q), …]` of successive negated remainders, ending at
the last nonzero one. It also proves its basic API:

* `sturmSeq_cons`, `sturmSeq_zero`, `sturmSeq_zero_right`, `sturmSeq_eq_nil_iff`: unfolding and
  degenerate cases;
* `mem_sturmSeq_self`, `head?_sturmSeq`, `zero_notMem_sturmSeq`: membership facts;
* `dvd_of_mem_sturmSeq`: every common divisor of `p` and `q` divides every entry;
* `sturmSeq_mul_left`: `sturmSeq (r * p) (r * q) = (sturmSeq p q).map (r * ·)` for `r ≠ 0`.

It also adds `Polynomial.neg_mod` and `Polynomial.mul_mod_mul_left` to `FieldDivision.lean`, used
in the proof of `sturmSeq_mul_left`.

This is the second PR of a series formalizing the Sturm–Tarski theorem, following #43783 
(`List.signVariations`). The development is a port of Wenda Li's Isabelle/AFP entry. The remaining
parts (local sign of a polynomial to the right of a point, the Cauchy index, and the theorem
itself) will follow in separate PRs. See also #43512.

The definition and the original proofs were written by hand. Claude Code (Fable 5.1) was used to
simplify part of the proofs and to review the code.

Co-authored-by: Pedro Saccomani <psaccomani15@gmail.com>
Co-authored-by: Sarah Azevedo Pereira <sarahcomh@proton.me>

### CODE REVIEW

File: Mathlib/Algebra/Polynomial/FieldDivision.lean [hunk 1]
```diff
@@ -732,6 +734,14 @@ theorem mod_eq_of_dvd_sub {p₁ p₂ q : R[X]} (h : q ∣ p₁ - p₂) : p₁ %
   rw [mul_comm]
   exact (Polynomial.C_mul_dvd (by simpa using hq)).mpr h
 
+theorem mul_mod_mul_left {p₁ p₂ q : R[X]} (hq : q ≠ 0) : (q * p₁) % (q * p₂) = q * (p₁ % p₂) := by
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/FieldDivision.lean]: :robot: Claude says: `hq` isn't needed: for `q = 0` both sides are `0`. Suggest dropping it from the signature and starting the proof with
```lean
rcases eq_or_ne q 0 with rfl | hq
· simp
```
(The caller `sturmSeq_mul_left` still needs its `hr`.)

**Review by kim-em — COMMENTED** [review]
:robot: Claude says: Thanks, this is a clean and well-documented PR. A few small suggestions inline; all proposed code has been compiled against this branch.

File: Mathlib/Algebra/Polynomial/Sturm/Sequence.lean [hunk 2]
```diff
@@ -0,0 +1,158 @@
...
+
+/-- The Sturm sequence of `p` and `q`: the list `[p, q, -(p % q), …]` of successive negated
+remainders, ending at the last nonzero one. -/
+noncomputable def sturmSeq (p q : K[X]) : List K[X] :=
+  if p = 0 then
+    []
+  else
+    p :: (sturmSeq q (-p % q))
+  termination_by if p = 0 then 0 else if q = 0 then 1 else 2 + natDegree q
+  decreasing_by exact sturmSeq_termination p q (by assumption)
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/Sturm/Sequence.lean]: :robot: Claude says: The private lemma can be inlined and shortened. The `natDegree ≠ 0` detour isn't needed: since the remainder is nonzero, `natDegree_lt_natDegree` with `degree_mod_lt` gives the strict inequality directly, and `grind` handles the case split:
```lean
  decreasing_by
    have hdeg := fun (h : -p % q ≠ 0) (hq : q ≠ 0) =>
      natDegree_lt_natDegree h (degree_mod_lt (-p) hq)
    grind
```

File: Mathlib/Algebra/Polynomial/Sturm/Sequence.lean [hunk 3]
```diff
@@ -0,0 +1,158 @@
...
+* `Polynomial.dvd_of_mem_sturmSeq`: every common divisor of `p` and `q` divides every entry of
+  `sturmSeq p q`.
+* `Polynomial.sturmSeq_mul_left`: `sturmSeq (r * p) (r * q) = (sturmSeq p q).map (r * ·)` for
+  `r ≠ 0`.
+
+## Implementation notes
+
+The definition is by well-founded recursion on the measure
+`if p = 0 then 0 else if q = 0 then 1 else 2 + q.natDegree`: the degree of the second argument
+drops at every step, except possibly at the first one, where `q` may have larger degree than `p`.
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/Sturm/Sequence.lean]: :robot: Claude says: This isn't quite accurate: the second argument goes from `q` to `-p % q`, whose degree is smaller whenever `q ≠ 0`, including at the first step. The exception is `q = 0`, where the next call is `sturmSeq 0 (-p)`, which is the base case. Suggest rewording along those lines (the two special values of the measure correspond to the two terminal cases).

File: Mathlib/Algebra/Polynomial/Sturm/Sequence.lean [hunk 4]
```diff
@@ -0,0 +1,158 @@
...
+  if p = 0 then
+    []
+  else
+    p :: (sturmSeq q (-p % q))
+  termination_by if p = 0 then 0 else if q = 0 then 1 else 2 + natDegree q
+  decreasing_by exact sturmSeq_termination p q (by assumption)
+
+/-- The Sturm sequence of `0` and `q` is the empty sequence. -/
+@[simp]
+lemma sturmSeq_zero (q : K[X]) :
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/Sturm/Sequence.lean]: :robot: Claude says: Naming nit: `sturmSeq_zero` / `sturmSeq_zero_right` mixes conventions; `sturmSeq_zero_left` / `sturmSeq_zero_right` (cf. `Nat.gcd_zero_left`) reads more clearly. There is precedent for the current mix (`nthRoots_zero` / `nthRoots_zero_right`), so feel free to ignore. If renamed, update the module docstring on line 33 too.

File: Mathlib/Algebra/Polynomial/Sturm/Sequence.lean [hunk 5]
```diff
@@ -0,0 +1,158 @@
...
+    sturmSeq 0 q = [] := by simp [sturmSeq]
+
+/-- If `p` is not `0`, the Sturm sequence of `p` and `q` is `p` followed by the Sturm sequence of
+`q` and `-p % q`. -/
+lemma sturmSeq_cons {p q : K[X]} (hp : p ≠ 0) :
+    sturmSeq p q = p :: sturmSeq q (-p % q) := by
+  conv_lhs => unfold sturmSeq
+  simp [hp]
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/Sturm/Sequence.lean]: :robot: Claude says: `rw [sturmSeq, ite_eq_right hp]` does the same in one line.

File: Mathlib/Algebra/Polynomial/Sturm/Sequence.lean [hunk 6]
```diff
@@ -0,0 +1,158 @@
...
+    sturmSeq p 0 = if p = 0 then [] else [p] := by
+  split_ifs with hp
+  · exact sturmSeq_eq_nil_iff.mpr hp
+  · rw [sturmSeq_cons hp, sturmSeq_zero]
+
+lemma mem_sturmSeq_self {p q : K[X]} (hp : p ≠ 0) :
+    p ∈ sturmSeq p q := by
+  rw [sturmSeq_cons hp]; exact List.mem_cons_self
+
+lemma zero_notMem_sturmSeq (p q : K[X]) : 0 ∉ sturmSeq p q := by
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/Sturm/Sequence.lean:109]: :robot: Claude says: The elementwise form is usually what downstream proofs want; cheap to add here:
```lean
lemma ne_zero_of_mem_sturmSeq {p q s : K[X]} (hs : s ∈ sturmSeq p q) : s ≠ 0 :=
  ne_of_mem_of_not_mem hs (zero_notMem_sturmSeq p q)
```

File: Mathlib/Algebra/Polynomial/Sturm/Sequence.lean [hunk 7]
```diff
@@ -0,0 +1,158 @@
...
+  induction p, q using sturmSeq.induct
+  next q => simp
+  next p q hp ih =>
+    rw [sturmSeq_cons hp]
+    simp [Ne.symm hp, ih]
+
+/-- The first entry of the Sturm sequence of a nonzero polynomial is the polynomial itself. -/
+lemma head?_sturmSeq {p : K[X]} (hp : p ≠ 0) (q : K[X]) :
```
Comment (kim-em) [inline Mathlib/Algebra/Polynomial/Sturm/Sequence.lean]: :robot: Claude says: Two small things: make `q` implicit for consistency with `mem_sturmSeq_self`, and tag this `@[simp]` (cf. `head?_coeffList`):
```lean
@[simp]
lemma head?_sturmSeq {p q : K[X]} (hp : p ≠ 0) : (sturmSeq p q).head? = some p := by
```

File: Mathlib/Algebra/Polynomial/Sturm/Sequence.lean
Comment (SnirBroshi) [inline Mathlib/Algebra/Polynomial/Sturm/Sequence.lean:1]: Are you anticipating creating more files in this new directory in further PRs, or could this just be `Polynomial/Sturm.lean` or `Polynomial/SturmSequence.lean`?

Comment (tomaz1502) [reply Mathlib/Algebra/Polynomial/Sturm/Sequence.lean:1]: Yes, this is the first of a sequence of PRs to add the [Sturm-Tarski](https://isa-afp.org/entries/Sturm_Tarski.html) theorem. My plan is to add the other relevant concepts for the proof in this folder.

**Comment by kim-em** [comment]
bors merge
